US09212182B2
A vial was charged with 2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-amine (302 mg, 1.198 mmol), (E)-ethyl 3-(5-(benzylthio)-2-chloropyridin-3-yl)acrylate (400 mg, 1.198 mmol), Xantphos (69.3 mg, 0.120 mmol), Pd2 dba3 (54.9 mg, 0.060 mmol), cesium carbonate (781 mg, 2.396 mmol) and 1,4-dioxane (4793 pp. The mixture was purged with argon, the vial was sealed, and the reaction was heated at 100° C. for 5 h. Upon cooling to RT, 10 mL methanol was added, and the mixture was heated at 80° C. for 2 h. Upon cooling to RT the mixture was loaded onto silica gel and purified using 0-50% EtOAc/heptane to provide 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,8-naphthyridin-2(1H)-one (410 mg, 0.815 mmol, 68.0% yield) as a light orange foamy solid. m/z (ESI) 503.0 (M+H)+.

reactant | 2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-amine | 1.198 mmol, 302 mg | ClC1=C(C=C(C(=C1)N)OC)C1=CC(=CC=C1)F | C13H11ClFNO
reactant | (E)-ethyl 3-(5-(benzylthio)-2-chloropyridin-3-yl)acrylate | 1.198 mmol, 400 mg | C(C1=CC=CC=C1)SC=1C=C(C(=NC1)Cl)/C=C/C(=O)OCC | C17H16ClNO2S
reactant | Xantphos | 0.120 mmol, 69.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 2.396 mmol, 781 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2 dba3 | 0.060 mmol, 54.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,8-naphthyridin-2(1H)-one | 0.815 mmol, 410 mg, 68.0% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=NC1)C1=CC(=C(C=C1OC)C1=CC(=CC=C1)F)Cl)=O | C28H20ClFN2O2S
